US08242104B2
To 7-bromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one (3 g, 12 mmol) in ether (110 mL) was added bromine (0.7 mL, 14 mmol) and allowed to stir at room temperature overnight. The reaction mixture was concentrated under reduced pressure and purified via ISCO chromatography (hexane to 20% hexane in EtOAc over 45 minutes). Collected fractions and concentrated to give 4,7-dibromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one (3.53 g, 89%). 1H NMR (500 MHz, CDCl3) δ 7.86 (d, J=2.5, 1H), 7.52 (dt, J=28.5, 14.2, 1H), 6.97 (d, J=8.7, 1H), 4.95 (dd, J=7.6, 6.8, 1H), 4.53-4.36 (m, 1H), 4.17 (ddd, J=12.8, 9.9, 4.4, 1H), 3.04-2.84 (m, 1H), 2.52 (ddt, J=14.7, 7.8, 4.5, 1H)

reactant | 7-bromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one | 12 mmol, 3 g | BrC1=CC2=C(OCCCC2=O)C=C1 | C10H9BrO2
reactant | bromine | 14 mmol, 0.7 mL | BrBr | Br2
solvent | ether | 110 mL | CCOCC | C4H10O
product | 4,7-dibromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one | 3.53 g, 89% | BrC1C(C2=C(OCC1)C=CC(=C2)Br)=O | C10H8Br2O2
